US07671056B2
DD) 1-(5-fluoroquinolin-8-yl)piperidin-4-one
To a 2-L reactor with a stirrer, a thermocouple, a condenser and nitrogen inlet were charged 8-bromo-5fluoroquinoline (50 g), tetrahydrofuran (795 g), Pd2(dba)3 (3.78 g), Cymap (1.6 g), and 1,4-Dioxa-8-azaspiro[4.5]decane (47.3 g). the mixture was heated to reflux (66° C.) and the reaction was complete. The reaction mixture was quenched into a 5 L reactor containing 1000 g of water and 640 g of MTBE. The bottom aqueous layer was split off and the organic layer was washed with 5% NaOH (1120 g) and 20% NaCl (2×100 g). The solvent was evaporated, weight 87 g vs 79.4 g by theory.

reactant | 8-bromo-5fluoroquinoline | 50 g | BrC=1C=CC(=C2C=CC=NC12)F | C9H5BrFN
reactant | 1,4-Dioxa-8-azaspiro[4.5]decane | 47.3 g | O1CCOC12CCNCC2 | C7H13NO2
catalyst | Pd2(dba)3 | 3.78 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | 795 g | O1CCCC1 | C4H8O
product | 1-(5-fluoroquinolin-8-yl)piperidin-4-one | FC1=C2C=CC=NC2=C(C=C1)N1CCC(CC1)=O | C14H13FN2O
